US06936602B1
To anhydrous acetic acid (0.22 ml) was added dropwise formic acid (0.11 ml) under ice-cooling, and the mixture was stirred under nitrogen atmosphere at 50° C. for 2 hours. To the mixture was added THF (2 ml) and then was added dropwise, under ice-cooling, a solution of methyl 7-[4-(3-ethoxypropoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.35 g) in THF (15 ml), and the mixture was stirred at room temperature overnight. The solvent was evaporated, and to the residue was added water. The mixture was extracted with ethyl acetate. The organic layer was washed with sodium hydrogen carbonate solution, water and saturated brine, and dried with anhydrous magnesium sulfate, and the solvent was evaporated to give methyl 7-[4-(3-ethoxypropoxy) phenyl]-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.36 g) as colorless crystals.

reactant | acetic acid | 0.22 ml | C(C)(=O)O | C2H4O2
reactant | formic acid | 0.11 ml | C(=O)O | CH2O2
reactant | methyl 7-[4-(3-ethoxypropoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.35 g | C(C)OCCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C23H27NO4
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | methyl 7-[4-(3-ethoxypropoxy) phenyl]-1-formyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.36 g | C(C)OCCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C=O)C(=O)OC)C1 | C24H27NO5
